US07947676B2
N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-[2-(4-isopropylpiperazin-1-yl)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and N-isopropylpiperazine to give the title compound in 35% yield; NMR Spectrum: 0.91 (d, 6H), 2.38 (br s, 4H), 2.50 (hidden under DMSO, 4H), 2.51-2.56 (m, 1H), 2.76 (t, 2H), 4.41 (t, 2H), 5.28 (s, 2H), 7.24 (d, 1H), 7.36 (t, 1H), 7.56 (s, 1H), 7.58 (s, 1H), 7.86-7.91 (m, 2H), 8.29 (s, 1H), 8.47 (br s, 1H), 8.59 (d, 1H); Mass Spectrum: 523 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | N-isopropylpiperazine | C(C)(C)N1CCNCC1 | C7H16N2
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-[2-(4-isopropylpiperazin-1-yl)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 35% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN2CCN(CC2)C(C)C | C26H31ClN8O2
